US07405300B2
2-Chloro-1-(3-chlorophenyl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 to afford 1-(3-chlorophenyl-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde (64% yield) as a cream solid. ESI/MS 340 (M+H); RT 2.66 min.

reactant | 2-Chloro-1-(3-chlorophenyl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC(=CC=C1)Cl | C15H9Cl2NO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 3-chlorophenyl-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde | 64% yield | ClC=1C=C(C=CC1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1 | C19H18ClN3O
